US08981142B2
Another process of producing phosphinothricin generally comprises converting phosphorus trichloride to an adduct of methylphosphonous trichloride and aluminum tetrachloride (i.e., CH3PCl3.AlCl4). The adduct is reacted with ethylene to form an intermediate adduct, which is then reacted with ethanol to form ethyl 1-(2-chloroethyl)-methylphosphinate. This compound is reacted with potassium hydroxide and ethanol to prepare an ethyl vinylphosphinate precursor. The ethyl vinylphosphinate precursor is subjected to hydroformylation-aminocarbonylation, followed by hydrolysis of the hydroformylation-aminocarbonylation product in the presence of hydrochloric acid to produce phosphinothricin.

reactant | phosphinothricin | CP(=O)(CC[C@@H](C(=O)O)N)O | C5H12NO4P
reactant | phosphorus trichloride | P(Cl)(Cl)Cl | Cl3P
reactant | aluminum tetrachloride | [Cl-].[Cl-].[Cl-].[Cl-].[Al+3]
reactant | ethylene | C=C | C2H4
solvent | ethanol | C(C)O | C2H6O
product | ethyl 1-(2-chloroethyl)-methylphosphinate | ClCCCP(OCC)=O | C5H12ClO2P
